US07078401B2
To a solution of 4-(4-chloro-phenylsulfanyl)-benzonitrile (4.91 g) in 100 mL of dry THF under nitrogen stirring at room temperature was added 40 mL of lithium aluminum hydride solution (1.0 M in THF) via syringe. The reaction mix was allowed to stir for 3.5 hours at room temperature, and was then heated to reflux for 4.5 hours, and then allowed to sit at room temperature overnight. The reaction mix was then cooled in an ice bath and quenched by addition of 10 mL water, followed by 1 mL of 15% aqueous NaOH solution and an additional 30 mL of water. Anhydrous sodium sulfate was added, and the mixture was filtered. The resulting filter cake was washed several times with Et2O. The combined ether filtrates were concentrated in vacuo to yield 4.67 g of 4-(4-chloro-phenylsulfanyl)-benzylamine as a white solid. MS M+H: 250.

reactant | 4-(4-chloro-phenylsulfanyl)-benzonitrile | 4.91 g | ClC1=CC=C(C=C1)SC1=CC=C(C#N)C=C1 | C13H8ClNS
reactant | lithium aluminum hydride | 1.0 M, 40 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 4-(4-chloro-phenylsulfanyl)-benzylamine | 4.67 g | ClC1=CC=C(C=C1)SC1=CC=C(CN)C=C1 | C13H12ClNS
